US06545009B1
In the same manner as in Example 1, methyl 4-carbamoylbenzoate was reacted with 3,5-bis(trifluoromethyl)phenacyl bromide to obtain methyl 4-[4-[3,5-bis(trifluoromethyl)phenyl]-2-oxazolyl]benzoate. The product was. recrystallized from ethanol., Yield: 24%. Pale yellow prisms. Melting Point: 180 to 181° C.

reactant | methyl 4-carbamoylbenzoate | C(N)(=O)C1=CC=C(C(=O)OC)C=C1 | C9H9NO3
reactant | 3,5-bis(trifluoromethyl)phenacyl bromide | FC(C=1C=C(C(CBr)=O)C=C(C1)C(F)(F)F)(F)F | C10H5BrF6O
product | methyl 4-[4-[3,5-bis(trifluoromethyl)phenyl]-2-oxazolyl]benzoate | Yield: 24% | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1N=C(OC1)C1=CC=C(C(=O)OC)C=C1)(F)F | C19H11F6NO3
